US05030736
7-(4-Chlorobenzamido)-5,6-dihydro-6-hydroxy-5,5-dimethyl-2-nitro-7H-thieno[3,2-b]pyran
The title compound was prepared as described in Example 9 starting with 7-(4-chlorobenzamido)-5,6-dihydro-6-hydroxy-5,5-dimethyl-7H-thieno[3,2-b]pyran (1.23 g, 3.64 mmol) and 90% nitric acid (1.5 mL) in acetic acid (20 mL) to give the product, 0.384 g (28%), as a yellow solid: mp 226°-229° C. dec; IR (KBr): 3315, 1655, 1535 and 1503 cm-1 ; MS: m/z 383 (MH+); 1H NMR (DMSO-d6): δ1.25(s, 3H), 1.44(s, 3H), 3.90(m, 1H, simplifies to d, J=8.9 Hz with D2O), 4.95(m, 1H, simplifies to d, J=8.9 Hz, with D2O), 5.94(d, J=6.0 Hz, 1H exchanges with D2O), 7.60(d, J=8.6 Hz, 2H), 7.72(s, 1H), 7.94(d, J=8.6 Hz, 2H) and 9.11(d, J=7.6 Hz, 1H, exchanges with D2O).

reactant | 7-(4-chlorobenzamido)-5,6-dihydro-6-hydroxy-5,5-dimethyl-7H-thieno[3,2-b]pyran | 3.64 mmol, 1.23 g | ClC1=CC=C(C(=O)NC2C3=C(OC(C2O)(C)C)C=CS3)C=C1 | C16H16ClNO3S
reactant | nitric acid | 1.5 mL | [N+](=O)(O)[O-] | HNO3
reactant | KBr | [K+].[Br-]
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 7-(4-Chlorobenzamido)-5,6-dihydro-6-hydroxy-5,5-dimethyl-2-nitro-7H-thieno[3,2-b]pyran | ClC1=CC=C(C(=O)NC2C3=C(OC(C2O)(C)C)C=C(S3)[N+](=O)[O-])C=C1 | C16H15ClN2O5S
